US06939880B2
1H-NMR (CDCl3) (selected peaks) d 1.42; 1.45 (two s; 9H); 2.71; 2.78 (two d, 3H); 2.84; 2.92 (twos; 3H); 4.11; 4.30 (two d; 1H); 4.43; 4.57 (two t; 1H) (2R)-3-Benzyloxy-N-methyl-2-(methylamino)-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)propionamide:
((3E)-4-(N-((1R)-2-Benzyloxy-1-(N-methyl-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)carbamoyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enyl)carbamic acid tert-butyl ester (0.275 g; 0.452 mmol) was dissolved in methylene chloride (3 mL) and trifluoroacetic acid (3 mL) was added and the reaction mixture was stirred for 7 min at room temperature. Methylene chloride (30 mL), an aqueous solution of sodium hydrogen carbonate/sodium carbonate (pH 9; 30 mL) and sodium hydrogen carbonate (solid) were added to the reaction mixture until pH 8. The organic phase was dried (magnesium sulfate) and evaporated in vacuo to afford 0.13 g of the title compound.

reactant | ((3E)-4-(N-((1R)-2-Benzyloxy-1-(N-methyl-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)carbamoyl)ethyl)-N-methylcarbamoyl)-1,1-dimethylbut-3-enyl)carbamic acid tert-butyl ester | 0.452 mmol, 0.275 g | C(C)(C)(C)OC(NC(C\C=C\C(N(C)[C@H](COCC1=CC=CC=C1)C(N([C@H](CC1=CC=CC=C1)C(NC)=O)C)=O)=O)(C)C)=O | C34H48N4O6
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate sodium carbonate | 30 mL, pH 9 | C(O)([O-])=O.[Na+].C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | (2R)-3-Benzyloxy-N-methyl-2-(methylamino)-N-((1R)-1-(methylcarbamoyl)-2-phenylethyl)propionamide | 0.13 g | C(C1=CC=CC=C1)OC[C@H](C(=O)N([C@H](CC1=CC=CC=C1)C(NC)=O)C)NC | C22H29N3O3
